US05362878
By use of the procedures described in Examples 1 and 3, ethyl 2-bromononanoate and 4-(1-methylpropyl )phenol were coupled and the product saponified to give 2- (4-(1-methylpropyl)phenoxy)nonanoic acid. This material (1.0 g) was then methylated at the 2-position according to the procedure of Pfeffer, et. al. (J. Org. Chem., 1972, 37, 451) to give 2-methyl-2-hexanethiodecanoic acid (0.928 g). This material (0.86 g) was converted to the corresponding acid chloride with oxalyl chloride and coupled with 2,4,6-trimethoxyaniline (0.49 g) according to the procedure of Adams and Ulrich (J. Am. Chem. Soc., 1920, 42, 599) to give the title compound (1.12 g).

reactant | ethyl 2-bromononanoate | BrC(C(=O)OCC)CCCCCCC | C11H21BrO2
reactant | 4-(1-methylpropyl )phenol | CC(CC)C1=CC=C(C=C1)O | C10H14O
product | 2- (4-(1-methylpropyl)phenoxy)nonanoic acid | CC(CC)C1=CC=C(OC(C(=O)O)CCCCCCC)C=C1 | C19H30O3
